US04476307
1-(3-Chloro-4-methoxyphenyl)-2(1H,3H)-indolone
Using 3:2 hexane:ethyl acetate as eluant on chromatography, the procedure of the preceding preparation was used to convert 1-(3-chloro-4-methoxyphenyl)indole (0.93 g) to present title product, 0.71 g, m.p. 165°-167°.

reactant | hexane | CCCCCC | C6H14
reactant | 1-(3-chloro-4-methoxyphenyl)indole | 0.93 g | ClC=1C=C(C=CC1OC)N1C=CC2=CC=CC=C12 | C15H12ClNO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-Chloro-4-methoxyphenyl)-2(1H,3H)-indolone | ClC=1C=C(C=CC1OC)N1C(CC2=CC=CC=C12)=O | C15H12ClNO2
